US09034866B2
Synthesis of 4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, racemic 9-iodo-4-hydroxy-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give a diasteromeric mixture of the titled compound after purification by prep HPLC.

reactant | racemic 9-iodo-4-hydroxy-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)N)(C)O)C=C1 | C13H12IN3O3
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | 4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | OC1(C=2N(C3=C(OC1)C=CC(=C3)C#C[C@]3(C(N(CC3)C)=O)O)N=C(C2)C(=O)N)C | C20H20N4O5
